US08754100B2
Synthesis of (3-bromophenyl)-(2-chloroethoxy)acetonitrile
Thionyl chloride (1.23 mL) was added dropwise to a solution of (3-bromophenyl)-(2-hydroxyethoxy)acetonitrile (3.62 g) in pyridine (12.1 mL) at 50° C., and the mixture was stirred at 60° C. for two hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with water. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Then, the resulting residue was purified by silica gel column chromatography (elution solvent:heptane:ethyl acetate=9:1→8:2) to obtain 3.21 g of the title compound. The property values of the compound are as follows.

reactant | Thionyl chloride | 1.23 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (3-bromophenyl)-(2-hydroxyethoxy)acetonitrile | 3.62 g | BrC=1C=C(C=CC1)C(C#N)OCCO | C10H10BrNO2
reactant | Water | O | H2O
solvent | pyridine | 12.1 mL | N1=CC=CC=C1 | C5H5N
product | (3-bromophenyl)-(2-chloroethoxy)acetonitrile | 3.21 g | BrC=1C=C(C=CC1)C(C#N)OCCCl | C10H9BrClNO
